US07781591B2
Addition of EtMgBr to 5-nitroindole followed by hydrogenation over Pd/C provided 5-amino-4-ethylindole.

reactant | EtMgBr | CC[Mg+].[Br-]
reactant | 5-nitroindole | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
catalyst | Pd/C | [Pd] | Pd
product | 5-amino-4-ethylindole | NC=1C(=C2C=CNC2=CC1)CC | C10H12N2
